US08865623B2
To a mixture of 4-(5-bromo-2-cyclopropylphenyl)-2,2,6,6-tetramethylpyran-3,5-dione (0.208 g, 0.57 mmol), 2,4-dichlorophenol (473 mg, 2.85 mmol), cesium carbonate (0.400 g, 1.13 mmol), copper (II) trifluoromethanesulfonate (10 mg, 0.03 mmol) and activated (powdered) 5 Å molecular sieves (0.330 g) is added anhydrous toluene (3.5 ml). The mixture is purged with nitrogen then heated at 160° C. for 1 hour under microwave irradiation. After cooling to room temperature the reaction mixture is diluted with dichloromethane and 2M hydrochloric acid, then filtered and the organic phase separated. After concentration in vacuo the residue is purified by preparative reverse phase HPLC to afford 4-[2-cyclopropyl-5-(2,4-dichlorophenoxy)-phenyl]-2,2,6,6-tetramethylpyran-3,5-dione.

reactant | 4-(5-bromo-2-cyclopropylphenyl)-2,2,6,6-tetramethylpyran-3,5-dione | 0.57 mmol, 0.208 g | BrC=1C=CC(=C(C1)C1C(C(OC(C1=O)(C)C)(C)C)=O)C1CC1 | C18H21BrO3
reactant | 2,4-dichlorophenol | 2.85 mmol, 473 mg | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | cesium carbonate | 1.13 mmol, 0.400 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | copper (II) trifluoromethanesulfonate | 0.03 mmol, 10 mg | FC(S(=O)(=O)[O-])(F)F.[Cu+2].FC(S(=O)(=O)[O-])(F)F
solvent | toluene | 3.5 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[2-cyclopropyl-5-(2,4-dichlorophenoxy)-phenyl]-2,2,6,6-tetramethylpyran-3,5-dione | C1(CC1)C1=C(C=C(C=C1)OC1=C(C=C(C=C1)Cl)Cl)C1C(C(OC(C1=O)(C)C)(C)C)=O | C24H24Cl2O4
